US06372759B1
B) 4-t-Butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-N1-(3-chloroindol-6-ylcarbonyl)-1,2-benzenediamine
Using the procedure described in Example 9, Part C, 4-t-butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-1,2-benzenediamine (750 mg, 1.9 mmol) and 3-chloroindole-6-carboxylic acid (372 mg, 1.9 mmol) yielded 790 mg (72%) of the title compound.

reactant | 4-t-butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-1,2-benzenediamine | 1.9 mmol, 750 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)N)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C23H34N2O2Si
reactant | 3-chloroindole-6-carboxylic acid | 1.9 mmol, 372 mg | ClC1=CNC2=CC(=CC=C12)C(=O)O | C9H6ClNO2
product | 4-t-Butyldimethylsilyloxy-N2-(4-t-butylbenzoyl)-N1-(3-chloroindol-6-ylcarbonyl)-1,2-benzenediamine | 790 mg, 72% | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=CC1)NC(=O)C1=CC=C2C(=CNC2=C1)Cl)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C32H38ClN3O3Si
